* NMOS M1
M1 4 2 1 1 NMOS

* NMOS M2
M2 5 3 4 4 NMOS

* PMOS M3
M3 5 3 6 6 PMOS

* Voltage Source VDD
VDD 6 0 DC VDD

* Input Voltage Source Vin
Vin 2 0 DC Vin

* Ground
VSS 1 0 DC 0