spice
* SPICE Netlist for the given schematic

VDD 5 0 DC {VDD_value}

RD1 5 6 {RD1_value}
RD2 5 2 {RD2_value}

M1 7 4 8 8 NMOS
M2 2 3 8 8 NMOS

ISS 8 0 DC {ISS_value}

* Nodes:
* 0  - Ground
* 5  - VDD
* 6  - Node between RD1 and M1 drain
* 7  - Vout1
* 2  - Node between RD2 and M2 drain
* 3  - Vin2
* 4  - Vin1
* 8  - Common source node (connected to ISS and source of M1, M2)

* Parameters (to be defined):
* .param VDD_value = 
* .param RD1_value = 
* .param RD2_value = 
* .param ISS_value = 

.end