*MOSFET Differential Amplifier

* NMOS Transistor
M1 3 1 2 2 NMOS

* PMOS Transistor
M2 5 3 2 2 PMOS

* Current Source
I1 2 0 DC ISS

* Resistor
R1 6 5 ro4

* Voltage Source
V1 6 0 DC VDD

* Input
Vin 1 0 DC 0