plaintext
* SPICE Netlist
M1 3 8 1 1 NMOS
M2 3 8 2 2 NMOS
M3 4 4 6 6 PMOS
M4 5 4 4 4 PMOS
I1 4 0 DC I1_VALUE
ISS 3 0 DC ISS_VALUE
R1 6 8 R1_VALUE
VDD 6 0 DC VDD_VALUE
VOUT 5 0 DC VOUT_VALUE

.model NMOS NMOS
.model PMOS PMOS