spice
* SPICE Netlist for the Given Schematic
M1 2 2 3 3 NMOS
M2 2 4 VDD VDD PMOS
M5 4 6 VDD VDD PMOS
MB 3 3 GND GND NMOS

IB1 3 GND DC 0
IB2 6 GND DC 0

CB 2 Vin 1uF

R1 3 2 1k

* Voltage Definitions
VDD VDD GND DC 10

* End of Netlist
.end