spice
* SPICE Netlist

* Voltage Supply
VDD 7 0 DC 5V

* MOSFETs
M1 3 2 2 0 NMOS
M2 2 6 2 0 NMOS
M3 0 2 8 0 NMOS
M4 2 5 5 0 PMOS
M5 2 4 4 0 PMOS
M6 8 0 0 0 NMOS

* Resistors
R1 5 2 X
R2 4 2 Y
R3 6 3 RD
R4 7 2 RD

* Simulation commands
.control
run
.endc