spice
* SPICE Netlist
VDD 2 1 DC 5V

* Resistors
R1_left 5 4 1k
R1_right 6 4 1k

* NMOS Transistors
M1 4 4 3 1 NMOS L=1u W=2u
M2 4 4 1 1 NMOS L=1u W=2u

* Voltage Source
VDD 2 0 DC 5V