plaintext
* SPICE Netlist

V1 4 0 DC VDD
I1 5 4 DC IREF

* NMOS Transistors
M1 2 5 0 0 NMOS
M2 5 5 0 0 NMOS

* PMOS Transistor
M3 3 2 3 3 PMOS

* Capacitor
C1 3 6 C1

.END