spice
* NMOS Amplifier Circuit
M1 3 2 4 4 NMOS_MODEL
RS 2 4 100k
RD 1 3 10k
CF 2 3 10pF
VDD 1 0 DC 5V
V1 4 0 DC 1V
I1 3 0 DC 100uA

.model NMOS_MODEL NMOS (LEVEL=1)
.end