spice
* SPICE Netlist

*.model statements would be here (e.g., .model NMOS NMOS, .model PMOS PMOS)

VDD 24 0 DC 10

Iss 3 0 DC 0.1

M1 6 3 0 0 NMOS
M2 2 3 0 0 NMOS
M3 4 5 24 24 PMOS
M4 2 5 24 24 PMOS

C1 24 5 1u
C2 24 2 1u

R1 4 4 1k
R2 2 2 1k

Vin 6 0 Sin(0 1 1k)

* Control statements (e.g., .tran, .ac, .dc) would be added here.
.end