spice
* NMOS Amplifier Circuit

VDD 1 0 DC Vdd_value
Vn_in 5 0 AC Vn_ac_value
Cin 6 0 Cin_value
RD 1 2 RD_value
M1 2 6 4 4 NMOS_MODEL

* Define NMOS Model Parameters (example)
.model NMOS_MODEL NMOS (LEVEL=1 KP=120u VTO=1)

* Voltage and Component Values
.param Vdd_value=5
.param Vn_ac_value=0
.param Cin_value=10n
.param RD_value=1k

* Simulation Commands
.tran 1n 10u
.end