spice
* SPICE Netlist
Vn_in 5 0 DC {V_value} 
R1 5 2 {R1_value}
Cin 2 0 {Cin_value}
M1 3 2 4 4 NMOS_MODEL
RD 6 3 {RD_value}
VDD 6 0 DC {VDD_value}

.model NMOS_MODEL NMOS