spice
* NMOS Transistor M1
M1 2 6 4 4 NMOS

* Voltage Sources
Vn_in 6 8 DC <value> 
VDD 5 0 DC <value> 

* Capacitor
Cin 6 7 <value> 

* Resistor
RD 5 2 <value> 

* Connections
* Node 3 is connected to VDD
* Node 2 is connected to Vn1,out
* Node 4 is ground
* Node 8 is ground for Vn_in

.end