spice
   * NMOS Transistor
   M1 2 3 0 0 NMOS

   * Current Source
   Iin 3 0 DC 1mA

   * Resistor
   RF 3 2 1k

   * Diode
   D1 2 0 D

   .model NMOS NMOS
   .model D D

   .end