spice
* Netlist for the given schematic

M1 5 6 0 0 NMOS
M2 5 1 3 3 PMOS
RD 3 4 10k
VDD 4 0 DC 5V
Vb 1 0 DC 1.8V
Vin 6 0 DC 

.model NMOS nmos
.model PMOS pmos

.end