* Example Circuit

M1 3 Vin 0 NMOS
M2 4 3 5 PMOS
RD 4 5 RD_VALUE
I1 2 0 DC I_VALUE
VDD 5 0 DC VDD_VALUE
Vin Vin 0 DC Vin_VALUE

*.model NMOS NMOS_MODEL_PARAMS
*.model PMOS PMOS_MODEL_PARAMS

.end