* PMOS Transistors
M1 3 5 2 2 PMOS
M2 8 5 2 2 PMOS
M3 7 5 2 2 PMOS

* Resistors
R1 0 5 <value> 
R2 3 4 <value>
R3 8 5 <value>
R4 7 5 <value>
R5 2 2 <value>