plaintext
* SPICE netlist for the given schematic

VDD 2 0 DC 5V
RD 2 4 1k
RS 3 0 500
M1 4 Vin 3 3 NMOS l=1u w=2u
M2 3 4 2 2 PMOS l=1u w=2u

* Input voltage source
Vin Vin 0 DC 0V

* Model definitions
.model NMOS NMOS
.model PMOS PMOS

.end